US06455528B1
(8) Synthesis of N-(4-(1-Benzyloxycarbonylamino-1-methylethyl)phenylmethyl)acetamide
To a solution of 2-(4-acetylaminomethylphenyl)-2-methylpropionic acid (14 g) in a mixed solvent of acetone (40 ml) and dimethylformamide (30 ml) was added triethylamine (8.75 ml) under ice-cooling and a solution of ethyl chlorocarbonate (6.76 g) in acetone (20 ml) was added dropwise over 10 min. The mixture was stirred at 0° C. for 15 min. To this solution was added dropwise a solution of sodium azide (4.26 g) in water (28 ml) under ice-cooling over 10 min, and the mixture was stirred for 30 min. The reaction mixture was poured into ice water (500 ml) and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained oil was dissolved in toluene (100 ml) and heated at 80° C. for 2 hr. To this solution was added benzyl alcohol (6.77 ml) and the mixture was stirred at 80° C. for 42 hr. To the reaction mixture was added isopropyl alcohol to allow crystallization to give the title compound (14.62 g) as white crystals, m.p.=132-135° C.

reactant | 2-(4-acetylaminomethylphenyl)-2-methylpropionic acid | 14 g | C(C)(=O)NCC1=CC=C(C=C1)C(C(=O)O)(C)C | C13H17NO3
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | ethyl chlorocarbonate | 6.76 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | sodium azide | 4.26 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | 28 ml | O | H2O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | triethylamine | 8.75 ml | C(C)N(CC)CC | C6H15N
product | N-(4-(1-Benzyloxycarbonylamino-1-methylethyl)phenylmethyl)acetamide | 14.62 g | C(C1=CC=CC=C1)OC(=O)NC(C)(C)C1=CC=C(C=C1)CNC(C)=O | C20H24N2O3
